US06465147B1
The procedure according to Example 17 was repeated, but using the same amount of the polymer obtained from Example 10 instead of the polymer obtained from Example 1; 1,4-cyclohexane dicarboxaldehyde (1.4 g) as a cross-linker instead of glutaric dialdehyde, and methyl 3-methylpropionate (25 ml) as a solvent, to obtain a negative pattern with a resolution of 0.15 μm (FIG. 3).

reactant | methyl 3-methylpropionate | 25 ml | CCCC(=O)OC | C5H10O2
solvent | glutaric dialdehyde | C(CC=O)CC=O | C5H8O2
product | 1,4-cyclohexane dicarboxaldehyde | 1.4 g | C1(CCC(CC1)C=O)C=O | C8H12O2
